US07582626B2
a) 2-Cyclohexylamino-cyclopentanecarboxylic acid ethyl ester
A solution of 2-oxo-cyclopentanecarboxylic acid ethyl ester (2.01 g, 12.9 mmol) in ethanol (20 mL) was treated with cyclohexylamine (1.75 mL, 12.1 mmol), sodium cyanoborohydride (1.39 g, 22.2 mmol), and glacial acetic acid (10 drops) and stirred for 16 h at 50° C. After cooling to 25° C. the solvent was removed in vacuo, the crude material was redissolved in ethyl acetate (100 mL), washed with saturated aqueous sodium bicarbonate solution (100 mL). The aqueous layer was discarded and the organic layer was washed with 1.0 M aqueous hydrochloric acid solution (50 mL). The organic layer was discarded, 1.0 M aqueous sodium hydroxide solution (75 mL) was added and the aqueous layer was extracted with ethyl acetate (100 mL). The organic layer was dried over sodium sulfate, filtered and the solvent was removed in vacuo to afford the desired product 2-cyclohexylamino-cyclopentanecarboxylic acid ethyl ester (2.10 g, 8.77 mmol, 86.9%), as a light yellow oil. LC-MS (ESI) calcd for C14H25NO2239.19, found 240.2 [M+H+].

reactant | 2-oxo-cyclopentanecarboxylic acid ethyl ester | 12.9 mmol, 2.01 g | C(C)OC(=O)C1C(CCC1)=O | C8H12O3
reactant | cyclohexylamine | 12.1 mmol, 1.75 mL | C1(CCCCC1)N | C6H13N
reactant | sodium cyanoborohydride | 22.2 mmol, 1.39 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | acetic acid | 10 drops | C(C)(=O)O | C2H4O2
product | 2-cyclohexylamino-cyclopentanecarboxylic acid ethyl ester | 8.77 mmol, 2.10 g, 86.9% | C(C)OC(=O)C1C(CCC1)NC1CCCCC1 | C14H25NO2
